US05208228
17-Ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (200 mg) in ether (6 ml) is added boron trifluoride etherate (10 μl) followed by freshly prepared 2-diazopropane (100 fold excess). The mixture is stirred at room temperature for 15 min and quenched with sat'd aqueous sodium bicarbonate solution. The organic layer is separated, washed (sat'd. aqueous NaCl) and dried over anhydrous magnesium sulfate. Removal of solvent followed by preparative tlc on silica gives the title compound and its 4"-isomer.

reactant | 17-ethyl-1-hydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 200 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)O)C)C)=O | C42H67NO11
reactant | boron trifluoride etherate | 10 μl | B(F)(F)F.CCOCC
reactant | 2-diazopropane | [N+](=[N-])=C(C)C | C3H6N2
solvent | ether | 6 ml | CCOCC | C4H10O
product | 17-Ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC(C)C)C)C)=O | C45H73NO11
